US04219660
Preparation of 1-bromo-3-methyl-4-nitro-2-butene
To a solution of 0.1 Mol 4-nitro-3-methyl-2-butenol in benzene at 5° C. was added dropwise 0.036 Mol of phosphorous tribromide. The solvent was evaporated and the dark residue distilled through a vigreux column. Bp 100°/1 mm Hg.

reactant | 4-nitro-3-methyl-2-butenol | 0.1 Mol | [N+](=O)([O-])CC(=CCO)C | C5H9NO3
reactant | phosphorous tribromide | 0.036 Mol | P(Br)(Br)Br | Br3P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-bromo-3-methyl-4-nitro-2-butene | BrCC=C(C[N+](=O)[O-])C | C5H8BrNO2
